US03998829
21-Ethoxymethyl-3α-hydroxy-5α-pregnane-11,20-dione
3α-Hydroxy-21-methylene-5α-pregnane11,20 -dione (250 mg) was dissolved in ethanol (50 ml) and potassium bicarbonate solution (10%; 3 ml) added to the refluxing solution. After 3/4 hour the mixture was poured into water, and extracted into ether. The extract was washed with water, dried (Na2SO4) and evaporated to a white solid (190 mg) which was recrystallised from ether to give title compound (120 mg) m.p. 126°-129.5° C [α]D + 87.5° (c, 1.03).

reactant | 3α-Hydroxy-21-methylene-5α-pregnane11,20 -dione | 250 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C=C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C22H32O3
reactant | potassium bicarbonate | 3 ml | C([O-])(O)=O.[K+]
reactant | water | O | H2O
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 21-Ethoxymethyl-3α-hydroxy-5α-pregnane-11,20-dione | 120 mg | C(C)OCCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C24H38O4
